US04329348
To the solution of 1.6 g of 4-aminopyridine in 7 ml of dimethylformamide 2 g of 2-chloroethylisocyanate are added while stirring and keeping the temperature below 40°. After 2 hours 28 ml of water are added and stirring is continued for 2 hours at room temperature. The precipitate formed is filtered off, washed with water, dried and recrystallized from aqueous ethanol, to yield the 1-(4-pyridyl)-3-(2-chloroethyl)-urea melting at 120°-122°.

reactant | 4-aminopyridine | 1.6 g | NC1=CC=NC=C1 | C5H6N2
reactant | 2-chloroethylisocyanate | ClCCN=C=O | C3H4ClNO
reactant | water | 28 ml | O | H2O
solvent | dimethylformamide | 7 ml, 2 g | CN(C=O)C | C3H7NO
product | 1-(4-pyridyl)-3-(2-chloroethyl)-urea | N1=CC=C(C=C1)NC(=O)NCCCl | C8H10ClN3O
